US05294612
A mixture of 1-cyclopentyl-3-ethyl-6-(2-chloro-6-methyl-4-pyridyl)pyrazolo[3,4-d]pyrimidin-4-one (0.30 g, 0.84 mmol), imidazole (0.06 g, 0.9 mmol) and N-methyl-2-pyrrolidinone (10 ml) was refluxed for 60 hours. The mixture was cooled to room temperature, filtered through a plug of celite and the plug was rinsed with methanol. The solvent was removed in vacuo and the residue was washed with ethanol and the solution was filtered. The filtrate was treated with charcoal, filtered, and the solvent was removed in vacuo. The residue was triturated with ether and a dark solid was collected by filtration. The product was recrystallized from ether/methanol to afford 0.018 g (10%) of 1-cyclopentyl-3-ethyl- 6-[2-(1-imidazolyl)-6-methyl-4-pyridyl]pyrazolo[3,4-d]pyrimidin-4-one.1/4 hydrate as a beige powder, m.p. 277°-278° C.

reactant | 1-cyclopentyl-3-ethyl-6-(2-chloro-6-methyl-4-pyridyl)pyrazolo[3,4-d]pyrimidin-4-one | 0.84 mmol, 0.30 g | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)C2=CC(=NC(=C2)C)Cl)CC | C18H20ClN5O
reactant | imidazole | 0.9 mmol, 0.06 g | N1C=NC=C1 | C3H4N2
solvent | N-methyl-2-pyrrolidinone | 10 ml | CN1C(CCC1)=O | C5H9NO
product | 1-cyclopentyl-3-ethyl- 6-[2-(1-imidazolyl)-6-methyl-4-pyridyl]pyrazolo[3,4-d]pyrimidin-4-one | 0.018 g, 10% | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)C2=CC(=NC(=C2)C)N2C=NC=C2)CC | C21H23N7O
